US06207668B1
1.) 5-Chloro-6-ethyl-4-(2-phenyltetrahydrofuran-4-ylamino)pyrimidine
1.50 g (8.5 mmol) of 4,5-dichloro-6-ethylpyrimidine, 1.39 g (8.5 mmol) of 4-amino-2-phenyltetrahydrofuran and 2 ml (14 mmol) of triethylamine were heated for 12 hours at 85° C. After cooling, the mixture was diluted with water and extracted with ether, and the organic phase was washed with saturated NaCl solution. After the mixture had been dried and concentrated, the residue was purified by column chromatography using petroleum etherlethyl acetate (9:1, 8:2). This gave 1.63 g (63% of theory) of a colorless oil (diastereomers 1:1).

reactant | 4,5-dichloro-6-ethylpyrimidine | 8.5 mmol, 1.50 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 4-amino-2-phenyltetrahydrofuran | 8.5 mmol, 1.39 g | NC1CC(OC1)C1=CC=CC=C1 | C10H13NO
reactant | triethylamine | 14 mmol, 2 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-Chloro-6-ethyl-4-(2-phenyltetrahydrofuran-4-ylamino)pyrimidine | ClC=1C(=NC=NC1CC)NC1CC(OC1)C1=CC=CC=C1 | C16H18ClN3O
